US07253194B2
(R)-[2-(4-Benzyloxy-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester (38)
DIPEA (28.2 ml, 20.9 g, 162 mmol) was added to a stirred solution of (R)-3-(4-benzyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid (20.0 g, 53.9 mmol), BOP (25.00 g, 56.5 mmol) and MeONHMe.HCl (5.52 g, 56.6 mmol) in DMF (300 mL). After stirring 2 h the DMF was evaporated and the residue was dissolved in EtOAc and washed with water, 5% aqueous HCl, saturated aqueous NaHCO3 and brine, then dried with Na2SO4 and evaporated to a cream solid. This was ground to a powder (22.39 g, 100%), mp 107.1-108.7° C. (lit. mp 107-108° C.) [W. J. Thompson et al, Tetrahedron Lett, 1990, 31, 6189]. 1H NMR (CDCl3) δ 7.44-7.32 (5H, m), 7.09 (2H, d, J=8.5 Hz), 6.90 (2H, d, J=8.6 Hz), 5.15 (1H, br d, J=7.1 Hz, NH), 5.04 (2H, s, OCH2Ph), 4.91 (1H, br s, Hα), 3.17 (3H, s, NMe), 3.65 (3H, s, OMe), 3.00 (1H, dd, J=6.1, 13.6 Hz, Hβ), 2.83 (1H, dd, J=6.2, 14.2 Hz, Hβ), 1.40 (9H, s, CMe3). 13C NMR (CDCl3) δ 172.3, 157.7, 155.2, 137.1, 130.4, 128.9, 128.5, 127.9, 127.4, 114.7, 79.6, 70.0, 61.5, 51.6, 38.0, 32.1, 28.3.

reactant | DIPEA | 162 mmol, 28.2 ml, 20.9 g | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-3-(4-benzyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid | 53.9 mmol, 20.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@H](C(=O)O)NC(=O)OC(C)(C)C | C21H25NO5
reactant | BOP | 56.5 mmol, 25.00 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | MeONHMe.HCl | 56.6 mmol, 5.52 g | CONC.Cl
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | (R)-[2-(4-Benzyloxy-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(N(C)OC)=O)=O | C23H30N2O5
